US08350090B1
4-Hydroxy-2-(3-Benzyloxybenzyl)cyclopent-2-enone (5.73 g, 19.48 mmol) was dissolved in isobutyl methyl ketone (60 mL), and vinyl acetate (11.2 g, 13.01 mmol) and Lipase derived from Alculigenese spp (0.6 g) was added to the solution, and the mixture was stirred at room temperature for 1 day. The reaction mixture was filtered to remove Lipase and the filtrate was evaporated. The resulting residue was purified by chromatography on a silica gel column using hexane-EtOAc as eluent to give the (R)-3-(3-benzyloxybenzyl)-4-oxocyclopent-2-enyl acetate as yellow oil: 2.51 g (yield: 38%, 96% ee by HPLC using a chiral column) and (S)-4-hydroxy-2-(3-(benzyloxy)benzyl)cyclopent-2-enone as yellow oil: 2.68 g (yield: 47%, >99% ee by HPLC using a chiral column)

reactant | 4-Hydroxy-2-(3-Benzyloxybenzyl)cyclopent-2-enone | 19.48 mmol, 5.73 g | OC1C=C(C(C1)=O)CC1=CC(=CC=C1)OCC1=CC=CC=C1 | C19H18O3
reactant | vinyl acetate | 13.01 mmol, 11.2 g | C(C)(=O)OC=C | C4H6O2
solvent | isobutyl methyl ketone | 60 mL | CC(=O)CC(C)C | C6H12O
product | (R)-3-(3-benzyloxybenzyl)-4-oxocyclopent-2-enyl acetate | yield: 38% | C(C)(=O)O[C@H]1C=C(C(C1)=O)CC1=CC(=CC=C1)OCC1=CC=CC=C1 | C21H20O4
